Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Left heart catheterization
PCI with DES x1 in LCx and DES x1 in RCA

 
History of Present Illness:
___ year old male with hx. HLD presenting with c/o chest pain in 
setting of abnormal stress test. Patient has had chest pain with 
exertion for approximately 2 weeks. Was referred to ___ 
cardiology and underwent ECHO stress test ___ which was 
positive, undewent CT coronaries ___ which showed severe RCA 
and LAD stenosis as well as LMCA stenosis. Patient was scheduled 
for a cath tomorrow by ___ cardiologist however 
complained of chest pain at rest so was referred to ___.  

Patient reports development of chest pain this AM while sitting 
in chair, similar to pain developed during stress test. Rates it 
___ at it worst, left sided, radiating to left shoulder, worse 
with exertion and improved with rest. Denies n/v/diaphrosis, no 
dyspnea. Patient took 650mg aspirin this AM, discussed this pain 
with his cardiologist who referred him to the ___. In the ___, his 
pain initially resolved without nitro but returned approximately 
2h ago.  

Vitals in the ___ were Temp: 97.7 HR: 61 BP: 147/94 
Resp: 16 O(2)Sat: 98 Normal. After discussions with the ___ team 
and cardiology, the decision was made to transfer to ___ for 
unstable angina and possible cath. He was started on a heparin 
gtt prior to transfer. His initial troponin was < 0.01 (at 
1500).  
 
In the ___ ___, initial VS: 97.7 58 150/94 16 97%. He was 
evaluated by the cards attending in the ___ who recommended cath 
in the AM.  
On the floor patient currently has very mild residual chest 
pain, rated ___, which has been longstanding today. Patient 
also wonders if he has a component of anxiety contribting to it. 
Denies dyspnea, palpitations, lightheadedness, or dizziness.  
 
Review of Systems:  
(+) as above  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
Hyperlipidemia
 
Social History:
___
Family History:
No history of early MIs, HTN in father.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals- 97.5 138/88 hr 60 18 97% RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, ___ systolic murmur 
heard at apex  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses radial and pedal, no 
clubbing, cyanosis or edema  
Neuro- CNs2-12 intact, motor function grossly normal 

DISCHARGE PHYSICAL EXAM:
Vitals- T98.5 BP123/78 P55 RR18 97RA
Exam unchanged from admission
 
Pertinent Results:
PERTINENT LABS:
___ 12:33AM BLOOD CK-MB-5 cTropnT-<0.01
___ 09:20AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:00AM BLOOD Glucose-109* UreaN-16 Creat-0.9 Na-138 
K-4.0 Cl-103 HCO3-25 AnGap-14

CARDIAC CATHETERIZATION ___:
Coronary angiography:  right dominant
LMCA:  20% distal stenosis
LAD:  Proximal 80% stenosis diffuse.  Mild luminal 
irregularities
LCX:  Mild luminal irregularities
RCA:  Proximal diffuse 80% stenosis
Interventional details
Right radial access could not be obtained due to vessel spasm. 
Change for 6 ___ XBLAD3.5 guide.  Crossed with a Prowater 
wire.  Predilated with a 2.5 mm balloon.  Deployed a 2.75 x 28 
mm Promus Element drug-eluting stent and postdilated the 
proximal portion with a 3.0 mm balloon.  Final angiography 
revealed normal flow, no dissection and 0% residual stenosis in 
the stent. Origin jailed diagonal had 70% stenosis and normal 
flow so thus was not rescued.  Attention was then turned to the 
RCA.  A 6 ___ JR4 guide was used.  A Prowater wire crossed.  
A 2.75 x 18mm Resolute stent was deployed.  Final angiography 
revealed normal flow, no dissection and 0% residual stenosis in 
the stent. The patient tolerated the procedure well and left the 
laboratory in stable condition.  The right common femoral 
arteriotomy was closed with an Angioseal device.
Assessment & Recommendations
 1. Secondary prevention CAD
 2. ASA 81 mg PO QD
 3. Plavix 75 mg PO QD x 12 months uninterrupted
 4. Follow-up Dr. ___
 
___ Hospital Course:
___ male with h/o hyperlipidemia, LVH with LVOT obstruction, 
former 18-pack year smoker (quit several days ago), with recent 
abnormal CT coronary angiogram who presented with unstable 
angina and now s/p PCI with stent placement.

#Unstable angina: Patient had recent chest pain on exertion 
started in early ___, subsequently had abnormal stress ECHO 
with ischemic EKG changes so was sent for CT coronary angiogram. 
This showed severe RCA and LAD stenosis as well as LMCA 
stenosis. He was scheduled for cardiac catheterization for day 
of admission but then experienced chest pain at rest so went to 
___ and transferred to ___ for cardiac 
catheterization. On admission, no acute EKG changes or elevated 
cardiac biomarkers. He underwent cardiac catheterization/PCI on 
___ with drug-eluting stent in the LAD and drug-eluting 
stent in the RCA. Afterwards, patient had no chest pain, 
palpitations, dyspnea, right groin pain, back pain, numbness or 
tingling. Patient started on ASA 81mg, Plavix 75mg, metoprolol 
XL 25mg, and atorvastatin 80mg. Patient will follow up with his 
outpatient cardiologist Dr. ___.

TRANSITIONAL ISSUES:
-Patient to follow up with Dr. ___ two weeks of 
discharge.
-Plavix for minimum of ___ year
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
2. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
3. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*2
4. Nitroglycerin SL 0.3 mg SL PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tab sublingually 1 tab 
every 5 minutes, maximum 3 tabs. If not resolved by 2nd dose, 
call ___ then take 3rd dose. Disp #*30 Tablet Refills:*0
5. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina
CAD s/p PCI with DES in LCx and DES in RCA
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you during your stay at ___. 
You were admitted for cardiac catheterization because of chest 
pain and abnormal CT coronary angiogram. We found severe disease 
in two coronary arteries so you had a stent placed in your left 
anterior descending artery and a stent placed in your right 
coronary artery. 

It is important that you take Aspirin and Plavix (clopidogrel) 
every day to prevent a clot from forming in these stents. Do not 
stop these medications without speaking to your cardiologist. 
You were also started on several new medications to optimize 
your heart health. Please stop taking Simvastatin, it was 
replaced with Atorvastatin.

You were given a prescription for sublingual nitroglycerin to 
take if you have chest pain. Take one tab every 5 minutes, 
maximum 3 tabs. If chest pain does not resolve by second tab, 
call ___ then take ___ tab. Do not take this medication if you 
had taken Viagra or Cialis in the preceeding 24 hours. In this 
situation, call ___ if having chest pain.

Please follow up with your Primary Care doctor within ___ week of 
discharge and with your Cardiologist (Dr. ___ within two 
weeks of discharge.
 
Followup Instructions:
___